US05606051
3-Acetyl-1-(2-hydroxyethyl)-5-methylpyrazole
3-Acetyl-1-(2-t-butyldimethylsilyloxyethyl)-5-methylpyrazole (1.6 g, 5.7 mM) in methanol (50 ml) was treated with 2M hydrochloric acid (10 ml). After stirring for 0.5 h the mixture was evaporated to remove methanol and the residual oil extracted repeatedly with dichloromethane and ethyl acetate to give the title compound as a colouless oil (0.633 g, 66%); δH (CDCl3) 2.30 (3H, s), 2.48 (3H, s), 3.98-4.09 (2H, m), 4.12-4.21 (2H, m), and 6.49 (1H, s).

reactant | 3-Acetyl-1-(2-t-butyldimethylsilyloxyethyl)-5-methylpyrazole | 5.7 mM, 1.6 g | C(C)(=O)C1=NN(C(=C1)C)CCO[Si](C)(C)C(C)(C)C | C14H26N2O2Si
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-Acetyl-1-(2-hydroxyethyl)-5-methylpyrazole | 0.633 g, 66% | C(C)(=O)C1=NN(C(=C1)C)CCO | C8H12N2O2
